US07141596B2
Step 2. Methyl 2-[5-((2S)-2-[(2,2-difluoropropanoyl)amino]-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5yl)-3-fluorophenyl]propanoylamino)pentyl]oxy-6-hydroxybenzoate
2,2-Difluoropropanoic acid (2.31 mg, 0.0210 mmol) in DMF (1.00 mL) was treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (9.97 mg, 0.0225 mmol). The solution was stirred at ambient temperature for 5 minutes. Methyl 2-[5-((2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]-propanoylamino)pentyl]oxy-6-hydroxybenzoate trifluoroacetate (10.0 mg, 0.0150 mmol) in DMF (1.00 mL) was added followed by N,N-diisopropylethylamine (13.1 μL, 0.0751 mmol). The solution stirred at rt for 2 h. The product was directly purified by preparative LCMS to afford product as a white solid (7.1 mg, 73%). LCMS found for C28H33F3N3O9S (M+H)+: m/z=644.

reactant | 2,2-Difluoropropanoic acid | 0.0210 mmol, 2.31 mg | FC(C(=O)O)(C)F | C3H4F2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.0225 mmol, 9.97 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Methyl 2-[5-((2S)-2-amino-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorophenyl]-propanoylamino)pentyl]oxy-6-hydroxybenzoate trifluoroacetate | 0.0150 mmol, 10.0 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)NCCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)F
reactant | N,N-diisopropylethylamine | 0.0751 mmol, 13.1 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | Methyl 2-[5-((2S)-2-[(2,2-difluoropropanoyl)amino]-3-[4-(1,1-dioxido-3-oxoisothiazolidin-5yl)-3-fluorophenyl]propanoylamino)pentyl]oxy-6-hydroxybenzoate | 7.1 mg, 73% | FC(C(=O)N[C@H](C(=O)NCCCCCOC1=C(C(=O)OC)C(=CC=C1)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)F)(C)F | C28H32F3N3O9S
